US06066631
Synthesis of 6-(benzoylamino)-3,4-epoxy-3,4-dihydro-2,2-dimethyl-7-nitro-2H-1-benzopyran (II-1)
A mixed solution of a 1,4-dioxane (5 mL) and water (2.5 mL) in which a 6-(benzoylamino)-3-bromo-3,4-dihydro-2,2-dimethyl-7-nitro-2H-1-benzopyran-4-ol (III-1) (223 mg, 0.53 mmol) was dissolved was added with a sodium hydroxide (25.5 mg, 1.2 eq.) and stirred at room temperature for one hour. After the solution was diluted with water, the resulting mixture was extracted with an ethyl acetate and the organic layer was washed with an aqueous saturated sodium chloride solution, the layer was dried over a sodium sulfate anhydride. After the solvent was distilled off, the obtained residue was purified through silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain the intended product (147 mg, 81%) as a yellow solid.

reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
reactant | 6-(benzoylamino)-3-bromo-3,4-dihydro-2,2-dimethyl-7-nitro-2H-1-benzopyran-4-ol | 0.53 mmol, 223 mg | C(C1=CC=CC=C1)(=O)NC=1C(=CC2=C(C(C(C(O2)(C)C)Br)O)C1)[N+](=O)[O-] | C18H17BrN2O5
reactant | sodium hydroxide | 25.5 mg, 1.2 eq. | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 2.5 mL | O | H2O
product | 6-(benzoylamino)-3,4-epoxy-3,4-dihydro-2,2-dimethyl-7-nitro-2H-1-benzopyran | 147 mg, 81% | C(C1=CC=CC=C1)(=O)NC=1C(=CC2=C(C3C(C(O2)(C)C)O3)C1)[N+](=O)[O-] | C18H16N2O5
